US05464796
f) Ethyl 2-(2,5-dichloro-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate
A mixture of 31.5 g (0.1 mol) of ethyl (2,5-dichloro-3,4,6-trifluorobenzoyl)-acetate, 22.2 g (0.15 mol) of triethyl orthoformate and 25.5 g (0.25 mol) of acetic anhydride is heated under reflux for 2 hours (heating bath temperature of 150° C.). Low-boiling constituents are distilled off first under a waterpump vacuum and then under a high vacuum up to a bottom temperature of 130° C. The residue is used further as crude product.

reactant | ethyl (2,5-dichloro-3,4,6-trifluorobenzoyl)-acetate | 0.1 mol, 31.5 g | ClC1=C(C(=O)CC(=O)OCC)C(=C(C(=C1F)F)Cl)F | C11H7Cl2F3O3
reactant | triethyl orthoformate | 0.15 mol, 22.2 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 0.25 mol, 25.5 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-(2,5-dichloro-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1F)F)Cl)F | C14H11Cl2F3O4
